US07405232B2
c) methyl 3-[N′-(1-imino-ethyl)-hydrazinocarbonyl]-benzoate
Prepared analogously to the method described for intermediate product 1a) from methyl 3-hydrazinocarbonyl-benzoate and ethylacetimidate hydrochloride. White solid.

reactant | methyl 3-hydrazinocarbonyl-benzoate | N(N)C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H10N2O3
reactant | ethylacetimidate hydrochloride | Cl.C(C)OC(C)=N
product | methyl 3-[N′-(1-imino-ethyl)-hydrazinocarbonyl]-benzoate | N=C(C)NNC(=O)C=1C=C(C(=O)OC)C=CC1 | C11H13N3O3
